US05849732
Under ice-cooling, 1.03 ml of ethyl chlorocarbonate was added dropwise to a mixed solution of 2.45 g of 2-[3-cycloheptyl-3-(4-dimethylaminophenyl)ureido]-4-methoxy-6-tertbutylphenol, 1.51 ml of triethylamine and 50 ml of dichloromethane, and the mixture was stirred at room temperature for 2 hours. After washing and drying, the solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (solvent; chloroform:ethyl acetate=20:1), and precipitated crystals were recrystallized from a mixed solution of isopropyl ether and ethyl acetate. The resulting crystals were dissolved in 50 ml of dichloromethane, and 2 ml of a 4N hydrogen chloride-dioxane solution was added thereto. The mixture was evaporated to dryness under reduced pressure. The residue was crystallized from an isopropyl ether solution to give 1.34 g of O-ethoxycarbonyl-2-[3-cycloheptyl-3-(4-dimethylaminophenyl)ureido]-4-methoxy-6-tert-butylphenol hydrochloride (yield: 44%, melting point: 163°-167° C. (decomposed)).

reactant | ethyl chlorocarbonate | 1.03 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | 2-[3-cycloheptyl-3-(4-dimethylaminophenyl)ureido]-4-methoxy-6-tertbutylphenol | 2.45 g | C1(CCCCCC1)N(C(NC1=C(C(=CC(=C1)OC)C(C)(C)C)O)=O)C1=CC=C(C=C1)N(C)C | C27H39N3O3
reactant | triethylamine | 1.51 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | O-ethoxycarbonyl-2-[3-cycloheptyl-3-(4-dimethylaminophenyl)ureido]-4-methoxy-6-tert-butylphenol hydrochloride | 1.34 g, yield: 44% | Cl.C(C)OC(=O)OC1=C(C=C(C=C1C(C)(C)C)OC)NC(=O)N(C1=CC=C(C=C1)N(C)C)C1CCCCCC1 | InChI=1S/C30H43N3O5.ClH/c1-8-37-29(35)38-27-25(30(2,3)4)19-24(36-7)20-26(27)31-28(34)33(22-13-11-9-10-12-14-22)23-17-15-21(16-18-23)32(5)6;/h15-20,22H,8-14H2,1-7H3,(H,31,34);1H
